US04009181
A mixture of 1.3 g. of 6-nitro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester, 0.5 teaspoonful of Raney nickel and 100 ml. of ethanol was shaken in a Parr hydrogenation apparatus under 3.7 atmospheres of hydrogen at room temperature. After 2 hours of shaking the uptake of hydrogen had stopped. The catalyst was removed by filtration and the filtrate was concentrated to dryness, yielding 1.2 g. of product. Following recrystallization from a mixture of hexane and ethyl acetate, a yield of 0.8 g. of 6-amino-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester, m.p. 123°-124° was obtained.

reactant | 6-nitro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1CC=2NC3=CC=C(C=C3C2CC1)[N+](=O)[O-] | C15H16N2O4
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 6-amino-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1CC=2NC3=CC=C(C=C3C2CC1)N | C15H18N2O2
